US04713452
A 250 mg quantity of benzyl 2-[3-phenoxyacetamido-4-(5-methoxybenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate and 79 mg of benzenesulfonyl cyanide were dissolved in 2.5 ml of acetone. To the solution was added 3 mg of sodium benzenesulfinate and the mixture was reacted at room temperature for 2 hours. The same subsequent procedure as in Example 5 was followed, producing benzyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3butenoate in a yield of 93%. The NMR spectrum data of the compound thus obtained were identical with those of the desired compound. Table 2 below shows the NMR spectrum data thereof.

reactant | benzyl 2-[3-phenoxyacetamido-4-(5-methoxybenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SSC=1SC2=C(N1)C=C(C=C2)OC)C(C(=O)OCC2=CC=CC=C2)C(=C)C)=O | C31H29N3O6S3
reactant | benzenesulfonyl cyanide | 79 mg | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | sodium benzenesulfinate | 3 mg | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | acetone | 2.5 ml | CC(=O)C | C3H6O
product | benzyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3butenoate | yield of 93% | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SS(=O)(=O)C1=CC=CC=C1)C(C(=O)OCC1=CC=CC=C1)C(=C)C)=O | C29H28N2O7S2
